US05629343
2-[Acetylthiomethyl]-4-phenylbutyric acid
A 250 mL round bottomed flask, fitted with a Teflon magnetic stirring bar and a reflux condenser, was filled with 150 mL of toluene, 0.5 mL piperidine and 8.6 g (49 mmol) of 4-phenyl-2-methylenebutyric acid. Then 4.1 g (54 mmole) of thiolacetic acid was added to the solution and the mixture heated to reflux for 8 h under nitrogen. 1H-NMR analysis of the reaction mixture indicated some starting material remained. Another 1 g of thiolacetic acid was added and the mixture stirred at reflux for an additional 4 hours. By 1H-NMR, all of the starting material was seen to have reacted. The solution was cooled to 5° C. and 100 mL of ether added to the mixture. The excess thiolacetic acid was removed by extraction (3×50 mL 2% sodium bicarbonate). Then 50 ml of 1N HCl was added to the organic layer and the solution shaken vigorously. The organic layer was separated and dried over MgSO4. The solution was filtered and the solvent removed under reduced pressure. Recovered 10.0 g of product (81% yield).

reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
reactant | 4-phenyl-2-methylenebutyric acid | 49 mmol, 8.6 g | C1(=CC=CC=C1)CCC(C(=O)O)=C | C11H12O2
reactant | thiolacetic acid | 54 mmole, 4.1 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | thiolacetic acid | 1 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | ether | 100 mL | CCOCC | C4H10O
product | 2-[Acetylthiomethyl]-4-phenylbutyric acid | 10.0 g, 81% yield | C(C)(=O)SCC(C(=O)O)CCC1=CC=CC=C1 | C13H16O3S
